US05521180
To 180 mg of 2-[[(7-fluoro-4-indanyl)oxy]methyl]morpholine were added 1 ml of a 35% aqueous formaldehyde solution and 1 ml of formic acid, and the mixture was stirred at 80° C. for 7 hours, followed by concentration under reduced pressure. The concentrate was neutralized by addition of 20 ml of a saturated aqueous solution of sodium hydrogencarbonate. The mixture was extracted with three 20 ml portions of ethyl ether. The ethyl ether solution was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting oil was dissolved in 20 ml of ethyl ether, and a solution of 42 mg of fumaric acid in 1 ml of methanol was added thereto while stirring. The precipitated salt was collected by filtration, washed with ethyl ether, and dried to give 123 mg of 4-methyl-2-[[(7-fluoro-4-indanyl)oxy]methyl]morpholine fumarate.

reactant | 2-[[(7-fluoro-4-indanyl)oxy]methyl]morpholine | 180 mg | FC=1C=CC(=C2CCCC12)OCC1CNCCO1 | C14H18FNO2
reactant | formaldehyde | C=O | CH2O
reactant | formic acid | 1 ml | C(=O)O | CH2O2
product | 4-methyl-2-[[(7-fluoro-4-indanyl)oxy]methyl]morpholine fumarate | 123 mg | C(\C=C\C(=O)O)(=O)O.CN1CC(OCC1)COC1=C2CCCC2=C(C=C1)F | InChI=1S/C15H20FNO2.C4H4O4/c1-17-7-8-18-11(9-17)10-19-15-6-5-14(16)12-3-2-4-13(12)15;5-3(6)1-2-4(7)8/h5-6,11H,2-4,7-10H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
